US09290517B2
Step B: (3R,3aR,6R,6aR)-6-((6-chloro-5-(4-cyclopropylthiazolo[4,5-c]pyridin-2-yl)-1H-imidazo[4,5-b]pyridin-2-yl)oxy)hexahydrofuro[3,2-b]furan-3-ol
To a solution of 2-(2-(((3R,6R)-6-((tert-butyldimethylsilyl)-oxy)hexahydrofuro[3,2-b]furan-3-yl)oxy)-6-chloro-1H-imidazo[4,5-b]pyridin-5-yl)-4-cyclopropyl-thiazolo[4,5-c]pyridine (20.0 mg, 0.034 mmol) dissolved in anhydrous THF (0.3 mL) was added 1M TBAF in THF (0.07 mL, 0.070 mmol) and stirred at RT for 19 h. The reaction solution evaporated down under reduced pressure. Flash chromatography of the resulting residue utilizing a 4 g silica RediSep Rf® Gold column and employing a 0-15% MeOH/DCM gradient afforded the title compound. LC-MS: calculated for C21H18ClN5O4S 471.08 observed m/e: 472.01 (M+H)+ (Rt 1.02/1.8 min)

reactant | 2-(2-(((3R,6R)-6-((tert-butyldimethylsilyl)-oxy)hexahydrofuro[3,2-b]furan-3-yl)oxy)-6-chloro-1H-imidazo[4,5-b]pyridin-5-yl)-4-cyclopropyl-thiazolo[4,5-c]pyridine | 0.034 mmol, 20.0 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1COC2C1OC[C@H]2OC=2NC=1C(=NC(=C(C1)Cl)C=1SC3=C(C(=NC=C3)C3CC3)N1)N2 | C27H32ClN5O4SSi
reactant | TBAF | 1M | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 0.3 mL | C1CCOC1 | C4H8O
solvent | THF | 0.070 mmol, 0.07 mL | C1CCOC1 | C4H8O
product | (3R,3aR,6R,6aR)-6-((6-chloro-5-(4-cyclopropylthiazolo[4,5-c]pyridin-2-yl)-1H-imidazo[4,5-b]pyridin-2-yl)oxy)hexahydrofuro[3,2-b]furan-3-ol | ClC=1C=C2C(=NC1C=1SC3=C(C(=NC=C3)C3CC3)N1)N=C(N2)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1O | C21H18ClN5O4S
